US07981874B2
[5-(dimethylphosphoryl)pyridin-3-yl]methanol.
Acetyl chloride (0.044 ml, 0.625 mmol) was added to 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-(dimethylphosphoryl)pyridine (170 mg, 0.568 mmol) stirred in MeOH (1 ml) at 0° C. and the mixture was stirred at 0° C. for 1 h. The reaction was concentrated and left on high vac pump to dry. [5-(dimethylphosphoryl)pyridin-3-yl]methanol was taken on to next reaction crude. MS: cal'd 186 (MH+), exp 186 (MH+).

reactant | Acetyl chloride | 0.625 mmol, 0.044 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-(dimethylphosphoryl)pyridine | 0.568 mmol, 170 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=NC=C(C1)P(=O)(C)C | C14H26NO2PSi
solvent | MeOH | 1 ml | CO | CH4O
product | [5-(dimethylphosphoryl)pyridin-3-yl]methanol | CP(=O)(C)C=1C=C(C=NC1)CO | C8H12NO2P
